US04540692
To a suspension of N-(1-oxo-2,4,6-cycloheptatrien-2-yl)-2-methyl-4-cinnamoyloxy-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide (0.5 g) in methanol (50 ml) was added dropwise 1N sodium hydroxide solution (1.5 ml) at room temperature. The mixture was stirred for 8 hours at room temperature and then neutralized with 1N hydrochloric acid. The mixture was evaporated under reduced pressure and the residue was washed with water and dried to give crystals, which were recrystallized from N,N-dimethylformamide to give 4-hydroxy-2-methyl-N-(1-oxo-2,4,6-cycloheptatrien-2-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide (0.1 g).

reactant | N-(1-oxo-2,4,6-cycloheptatrien-2-yl)-2-methyl-4-cinnamoyloxy-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 0.5 g | O=C1C(=CC=CC=C1)NC(=O)C=1N(S(C2=C(C1OC(C=CC1=CC=CC=C1)=O)C=CC=C2)(=O)=O)C | C26H20N2O6S
reactant | sodium hydroxide | 1N, 1.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 4-hydroxy-2-methyl-N-(1-oxo-2,4,6-cycloheptatrien-2-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 0.1 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC=2C(C=CC=CC2)=O | C17H14N2O5S
